US08309734B2
4-(2-{2,5-Dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenyl}-ethyl)-benzoic acid
The title compound was prepared in analogy to Example 168 replacing 2-chloro-4-{2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenylethynyl}-benzoic acid methyl ester with 4-{2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenylethynyl}-benzoic acid methyl ester. MS (ISP): 588.2 [M+H]+.

reactant | 2-chloro-4-{2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenylethynyl}-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)C#CC1=C(C=C(C(=C1)Cl)OC1=NC=CC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl)Cl)=O | C33H24Cl3N3O4
reactant | 4-{2,5-dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenylethynyl}-benzoic acid methyl ester | COC(C1=CC=C(C=C1)C#CC1=C(C=C(C(=C1)Cl)OC1=NC=CC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl)=O | C33H25Cl2N3O4
product | 4-(2-{2,5-Dichloro-4-[3-(4-cyclopropyl-3,4-dihydro-2H-quinoxaline-1-carbonyl)-pyridin-2-yloxy]-phenyl}-ethyl)-benzoic acid | ClC1=C(C=C(C(=C1)OC1=NC=CC=C1C(=O)N1CCN(C2=CC=CC=C12)C1CC1)Cl)CCC1=CC=C(C(=O)O)C=C1 | C32H27Cl2N3O4
